Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
HPI: ___ s/p gastric bypass in ___ with 150 lb weight 
loss,
HTN who presents with the aforementioned three complaints.
Chest pain:
She has chest pain intermittent b/l chest pain in the past but
during the course of the past week in the setting of the
unexpected deaths of several family memebers she stared having
frequent episodes of chest pain which would last ___ mins. 
Pain
radiated to the back. Not worse with walking around or siting
still. No clear inciting or ameliorating factors. 
+ subjvective fevers and chills. It does not occur after
eating.CP associated with nausea, diaphoresis and shortness of
breath Describes it as a throbbing. Currently with ___ L chest
throbbing and ___ seroma pain. R shoulder pain ___ also
associated with chest pain.   + sore throat and close contact
with niece who was coughing. 
.
LEG SWELLING:
She was previolusly on lasix 20 mg but she self d/c'ed this 2
months ago because her swelling improved and she was frequently
going the bathroom. + tight feeling in legs which worsens with
exertion
.
ABDOMINAL PAIN:
She has an abdominal wall cyst which was drained 3x in ___ and
___ with the plan for definite surgical resection but she had
to miss that because of her family members died. 
.
In the ED pt's records were obtained:
last cath was ___ yrs ago @ ___ in
___, ___; also sees a surgeon Dr ___ (___)
for her seroma, cardiologist Dr. ___ (___), and PCP 
Dr
___ (___) -
.
ER: (Triage Vitals:98, 143/73, 64, 20, 100% on RA ) 
Meds Given:ASA 325 mg/lasix 40 mg IV ,
 Fluids given: none
Radiology Studies:CXR
consults called: cardiology
.
________________________________________________________________
REVIEW OF SYSTEMS: 10 or 2 with "all otherwise negative"
Eyes
      [X] All Normal
[ ] Blurred vision   [ ] Loss of vision [] Diplopia [ ]
Photophobia
 GI:             [] All Normal
[+ ] Nausea  [-] Vomiting   [+]  Abd pain  [] Abdominal swelling
[- ] Diarrhea    [- ] Constipation  [ ] Hematemesis 
[ ] Blood in stool     [ ] Melena [ ] Dysphagia:   [ ] Solids   
[ ] Liquids     [ ] Odynophagia  [ ] Anorexia    [ ] Reflux
[ ] Other:
GU:             [X] All Normal
[ ] Dysuria      [ ] Incontinence or retention  [ ] Frequency   
[ ] Hematuria  []Discharge []Menorrhagia  
SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus
NEURO:          [] All Normal
[ +] Headache    [ ] Visual changes   [ ] Sensory change [
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo
[ ] Headache
PSYCH:         [] All Normal
[ ] Mood change        [-]Suicidal Ideation  [-] Other:  
 [- ]Medication allergies- NKDA  [ ] Seasonal allergies
[X]all other systems negative except as noted above 

 
Past Medical History:
morbid obesity
DM2
HTN
HLD
s/p gastric bypass

 
Social History:
___
Family History:
Her father died from an overdose of morphine at age ___ but he
also had renal cancer. Mother with HTN, DM, h/o breast ___ in
remission.
 
Physical Exam:
ADMISSION:
VS: 98.7 154/74 53 18 100%RA  
GENERAL: WDWN, obese, middle-aged adult female lying comfortably 
in bed in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without clear JVP elevation.  
CARDIAC: no chest wall tenderness. PMI located in ___ 
intercostal space, midclavicular line. RR, normal S1, S2. No 
m/r/g. No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, obese. 1.5cm circular scabbed ulceration present, 
nno surrounding erythema, induration, or current drainage. NABS. 
 
EXTREMITIES: obese ___ b/l, no significant pitting edema 
appreciated.  

DISCHARGE:
VS: 98.2 63 (50-60s) 159/46 (120-150) 18 97% RA  
wt 150,6kg  
GENERAL: obese, middle-aged adult female sitting in chair  
HEENT: NCAT. Sclera anicteric.. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa.  
NECK: Supple without clear JVP elevation.  
CARDIAC: RR, normal S1, S2. No m/r/g.  
LUNGS: CTA b/l no w/r/r  
ABDOMEN: Soft, obese. 1.5cm circular scabbed ulceration present, 
nno surrounding erythema, induration, or current drainage. NABS. 
 
EXTREMITIES: obese ___ b/l, no significant pitting edema 
appreciated.  
 
Pertinent Results:
ADMISSION:
==================
___ 05:50PM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-14
___ 05:50PM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-14
___ 05:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-SM 

___ 05:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:50PM URINE  UCG-NEGATIVE
___ 07:10PM   NEUTS-50.8 ___ MONOS-4.7 EOS-2.1 
BASOS-0.6
___ 07:10PM   WBC-7.4 RBC-3.84* HGB-12.2 HCT-38.5 MCV-100* 
MCH-31.9 MCHC-31.8 RDW-12.5
___ 07:10PM   ALBUMIN-3.9
___ 07:10PM   cTropnT-<0.01
___ 07:10PM   LIPASE-26
___ 07:10PM   ALT(SGPT)-14 AST(SGOT)-18 ALK PHOS-115* TOT 
BILI-0.2

DISCHARGE:
=================
___ 08:00AM BLOOD WBC-6.5 RBC-4.19* Hgb-13.4 Hct-42.4 
MCV-101* MCH-32.0 MCHC-31.6 RDW-12.6 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-116* UreaN-13 Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-28 AnGap-14
___ 08:00AM BLOOD Calcium-9.5 Phos-3.1 Mg-1.8

IMAGING/STUDIES:
==================

CXR ___
FINDINGS:  The heart is again mildly enlarged.  The mediastinal 
and hilar 
contours appear within normal limits.  The lungs appear clear.  
There are no pleural effusions or pneumothorax.  There has been 
no significant change. 
IMPRESSION:  Unchanged mild cardiomegaly.  No evidence of acute 
cardiopulmonary disease. 

STRESS ___
This ___ year old morbidly obese woman s/p gastric 
by-pass ___ was referred to the lab for evaluation of atypical 
chest 
discomfort. The patient was infused with 0.142 mg/kg/min of 
dipyridamole over 4 minutes. No arm, neck, back or chest 
discomfort was 
reported by the patient throughout the study. There were no ST 
segment 
changes during the infusion or in recovery. The rhythm was sinus 
with 
no ectopy. Appropriate hemodynamic response to the infusion and 
recovery. The dipyridamole was reversed with 125 mg of 
aminophylline IV. 
IMPRESSION: No anginal type symptoms or ischemic EKG changes. 
Nuclear 
report sent separately. 

PERFUSION ___
INTERPRETATION:  
The image quality is poor due to extensive soft tissue and 
breast attenuation. 
Left ventricular cavity size is normal.. 
Rest and stress perfusion images reveal a reversible, moderate 
reduction in photon counts involving the mid and basal inferior 
and inferoseptal walls. 
Gated images reveal normal wall motion.  
The calculated left ventricular ejection fraction is 53% with an 
EDV of 82 ml.   
IMPRESSION:  
1. Probable reversible, medium sized, moderate severity 
perfusion defect 
involving the RCA territory. 
2. Normal left ventricular cavity size and systolic function. 
Compared with prior study of ___, the defect is probably 
new. 

CARDIAC CATH ___
ESTIMATED blood loss: <50 cc
Hemodynamics (see above):
Coronary angiography:  right dominant
LMCA, LAD, LCX, RCA:  No angiographically apparent CAD
Extreme tortuosity encountered with catheter placement due to
likely arteria lusoria.  A 90 mm 5 ___ ___ sheath was 
placed
in the ascending aorta to facilitate cannulation of the LCA. 
Assessment & Recommendations
 1. Medical management

 
Brief Hospital Course:
___ with hx of obesity, HTN, HLD presenting with atypical chest 
pain with subsequent positive nuclear stress test now s/p 
cardiac catheterization with no angiographically apparent CAD.  

ACTIVE ISSUES:  

# Chest pain, non-cardiac: Pt presented with chest pain, lower 
extremity edema, and abdominal pain. Her cardiac enzymes were 
negative. She had a cardiac stress test that showed probable 
reversible, medium sized, moderate severity perfusion defect 
involving the RCA territory with normal left ventricular cavity 
size and systolic function. She had a cardiac catheterization 
that showed no angiographic evidence of coronary artery disease.

# ___ swelling: Patient presented initially with lower extremity 
edema. Symptoms subjectively improved per her report after 
receiving a couple doses of IV furosemide 40mg while 
hospitalized. She should follow up with PCP regarding possibly 
restarting her previous home lasix. 

CHRONIC ISSUES:  
# Abdominal pain: She will need to re-schedule her appt with 
Surgery to undergo definitive removal of her skin ulceration. No 
other relevant lab abnormalities or concerning physical exam 
findings to raise concern for other cause of her pain outside of 
this ulceration.  She was continued on her topical clindamycin  

# Morbid obesity: S/p gastric bypass. No current interventions 
needed.
  
# DM2: Last A1c in our system from ___ was 7.2. Covered with 
ISS while inpatient. 

# HTN: Continue home lisinopril-HCTZ.  

# HLD: Continue home atorvastatin.  
 
# CODE: full (confirmed)  

# Contact: ___ (mother) ___  

***Transitional Issues:***
-F/u with cardiologist 
-F/u with surgeon regarding missed seroma drainage
-F/u with PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
abdominal pain 
5. HYDROcodone-acetaminophen 7.5-325 mg oral Q 4 hours prn  pain 

6. Calcium Carbonate 500 mg PO QID:PRN heartburn 
7. Topiramate (Topamax) 50 mg PO QHS:PRN insomnia 
8. Atorvastatin 40 mg PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
10. lisinopril-hydrochlorothiazide ___ mg oral daily 
11. DiCYCLOmine 20 mg PO BID 
12. Clindamycin 1 Appl TP QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN heartburn 
4. Clindamycin 1 Appl TP QHS 
5. Multivitamins 1 TAB PO DAILY 
6. Topiramate (Topamax) 50 mg PO QHS:PRN insomnia 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
8. DiCYCLOmine 20 mg PO BID 
9. HYDROcodone-acetaminophen 7.5-325 mg ORAL Q 4 HOURS PRN  pain 

10. lisinopril-hydrochlorothiazide ___ mg ORAL DAILY 
11. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Non-cardiac chest pain
Lower Extremity Swelling

Secondary Diagnosis: 
Abdominal Pain
Obesity
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___, 

You presented to the hospital with chest pain and lower 
extremity edema.  You were given medicine to help remove the 
fluid from your legs. You went for a cardiac catheterization (a 
test that looks at the blood vessels in your heart). It showed 
no evidence of blockages. You should follow up with your 
cardiologist when you return to ___.  You should also make 
an appointment with your surgeons to follow up on your abdominal 
pain. 

 
Followup Instructions:
___